US09428512B2
Intermediate 5: 5-((Benzyloxy)methyl)-2-butyl-4-chloro-7-iodo-5H-pyrrolo[3,2-d]pyrimidine
Sodium hydride (0.338 g, 60% in oil, 14.08 mmol) was added portionwise to a stirred solution of 4-chloro-7-iodo-2-butyl-5H-pyrrolo[3,2-d]pyrimidine (2.19 g, 6.53 mmol) in DMF (30 mL) cooled in an ice-bath. After 30 minutes benzyl chloromethyl ether (1.13 mL, 1.278 g, 8.16 mmol) was added and the reaction stirred at room temperature. The reaction mixture was quenched with water and the resultant mixture partitioned between ethyl acetate (150 mL) and water (150 mL). The organic phase was washed with water then saturated aqueous sodium chloride solution, dried (Na2SO4), filtered and evaporated. The sample was dissolved in dichloromethane and purified by chromatography on silica (100 g) using a gradient of 0-100% ethyl acetate-cyclohexane over 30 minutes. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow oil (2.82 g).

reactant | Sodium hydride | 14.08 mmol, 0.338 g | [H-].[Na+]
reactant | 4-chloro-7-iodo-2-butyl-5H-pyrrolo[3,2-d]pyrimidine | 6.53 mmol, 2.19 g | ClC=1C2=C(N=C(N1)CCCC)C(=CN2)I | C10H11ClIN3
reactant | benzyl chloromethyl ether | 8.16 mmol, 1.13 mL, 1.278 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-((Benzyloxy)methyl)-2-butyl-4-chloro-7-iodo-5H-pyrrolo[3,2-d]pyrimidine | 2.82 g | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)Cl)CCCC)I | C18H19ClIN3O
